US04022833
Condensation of 1-undecene oxide and N,N'-dibutylhexamethylenediamine affords N,N'-(1,6-hexylene)-bis[N-butyl-2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = CH3 (CH2)3, X= (CH2)6, Z= H).

reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | N,N'-dibutylhexamethylenediamine | C(CCC)NCCCCCCNCCCC | C14H32N2
product | N,N'-(1,6-hexylene)-bis[N-butyl-2-hydroxyundecylamine] | C(CCCCCN(CCCC)CC(CCCCCCCCC)O)N(CCCC)CC(CCCCCCCCC)O | C36H76N2O2
